US04535086
90 g of 2,5-dimethyl-2,5-dichlorohexane and 195 ml of thiophene are dissolved in 400 ml of hexane. 54 ml of titanium tetrachloride are slowly added dropwise thereto while cooling with ice, the mixture is warmed to 40° C. for 1.5 hours, again cooled with ice and the dark red mixture is treated cautiously with ice-water. The mixture is extracted three times with ether, the organic phase is washed with saturated sodium bicarbonate solution, dried and evaporated. The thus-obtained black oil is firsly filtered over silica gel (eluting agent hexane) and subsequently distilled in a water-jet vacuum. There are obtained 18.5 g of 4,5,6,7-tetrahydro-4,4,7,7-tetramethylbenzo[b]thiophene as a colorless liquid, b.p. 95°-96° C./10 mm.

reactant | 2,5-dimethyl-2,5-dichlorohexane | 90 g | CC(C)(CCC(C)(Cl)C)Cl | C8H16Cl2
reactant | thiophene | 195 ml | S1C=CC=C1 | C4H4S
solvent | hexane | 400 ml | CCCCCC | C6H14
catalyst | titanium tetrachloride | 54 ml | [Ti](Cl)(Cl)(Cl)Cl
product | 4,5,6,7-tetrahydro-4,4,7,7-tetramethylbenzo[b]thiophene | 18.5 g | CC1(CCC(C=2SC=CC21)(C)C)C | C12H18S
